US09315490B2
b) (3-(Hydroxymethyl)-1H-indol-6-yl)(morpholino)methanone
Sodium borohydride (2.2 g, 58.34 mmol) was added at 0° C. portion wise to a suspension of 6-(morpholine-4-carbonyl)-1H-indole-3-carbaldehyde (5 g, 19.44 mmol) in methanol (106 mL) and the mixture was stirred at room temperature for 3 h. The methanol was removed under vacuum whereby the temperature was kept below <35° C. The residue was diluted with water (100 mL) and extracted with ethyl acetate (3×100 mL). The combined organic layers were washed with brine, dried over sodium sulfate and evaporated. Washing of the remnant with ether provided the product as white solid. Yield: 4 g (79% of theory)

reactant | Sodium borohydride | 58.34 mmol, 2.2 g | [BH4-].[Na+]
reactant | 6-(morpholine-4-carbonyl)-1H-indole-3-carbaldehyde | 19.44 mmol, 5 g | N1(CCOCC1)C(=O)C1=CC=C2C(=CNC2=C1)C=O | C14H14N2O3
solvent | methanol | 106 mL | CO | CH4O
product | (3-(Hydroxymethyl)-1H-indol-6-yl)(morpholino)methanone | OCC1=CNC2=CC(=CC=C12)C(=O)N1CCOCC1 | C14H16N2O3
